US07521455B2
(1) Manufacture of 4-(3-pyrrolidin-1-yl-butoxy)aniline (Racemic Mixture)
The target compound was obtained by the method according to Example 18, using 3-pyrrolidin-1-yl-butan-1-ol (racemic mixture) manufactured by the method described in the literature (J. Org. Chem., 1949, Vol. 14, p. 862) and 4-nitrofluorobenzene as starting materials.

reactant | 3-pyrrolidin-1-yl-butan-1-ol | N1(CCCC1)C(CCO)C | C8H17NO
reactant | 4-nitrofluorobenzene | [N+](=O)([O-])C1=CC=C(C=C1)F | C6H4FNO2
product | 4-(3-pyrrolidin-1-yl-butoxy)aniline | N1(CCCC1)C(CCOC1=CC=C(N)C=C1)C | C14H22N2O
